US08809525B2
6-(1,3-Benzodioxol-5-yl)-5-phenyl-1,2,4-triazin-3-amine (54 mg, 62%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (75 mg, 0.299 mmol) and benzo[d][1,3]dioxol-5-ylboronic acid (57.0 mg, 0.344 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.299 mmol, 75 mg | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | benzo[d][1,3]dioxol-5-ylboronic acid | 0.344 mmol, 57.0 mg | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
product | 6-(1,3-Benzodioxol-5-yl)-5-phenyl-1,2,4-triazin-3-amine | 54 mg, 62% | O1COC2=C1C=CC(=C2)C2=C(N=C(N=N2)N)C2=CC=CC=C2 | C16H12N4O2
